US08541457B2
Preparation of 2-Amino-4-benzylthiazole-5-carboxylic Acid Benzylamide
To a solution of 2-amino-4-benzylthiazole-5-carboxylic acid (0.033 g, 0.14 mmol) and diisopropylethylamine (0.08 mL, 0.46 mmol) in N,N-dimethylformamide (5 mL) was added N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.039 g, 0.20 mmol), followed by the addition of 1-hydroxybenzotriazole (0.026 g, 0.19 mmol). After 30 minutes, benzylamine (0.02 mL, 0.18 mmol) was added. The reaction mixture was stirred at ambient temperature for 12 h, diluted with ethyl acetate, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash column chromatography eluting with ethyl acetate/hexanes (5/95 to 100/0) to afford the title compound (0.029 g, 65% yield).

reactant | 2-amino-4-benzylthiazole-5-carboxylic acid | 0.14 mmol, 0.033 g | NC=1SC(=C(N1)CC1=CC=CC=C1)C(=O)O | C11H10N2O2S
reactant | diisopropylethylamine | 0.46 mmol, 0.08 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.20 mmol, 0.039 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.19 mmol, 0.026 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzylamine | 0.18 mmol, 0.02 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-benzylthiazole-5-carboxylic Acid Benzylamide | 0.029 g, 65% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)CC1=CC=CC=C1 | C18H17N3OS
